US07572820B2
1-[(3-Phenyl-5-isoxazolyl)methyl]-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized in a manner similar to Example 23 using 4-(trifluoromethyl)-1H-indole-5-carbonitrile and 5-(chloromethyl)-3-phenylisoxazole: MS (ES) m/z 368 (M+1).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | 5-(chloromethyl)-3-phenylisoxazole | ClCC1=CC(=NO1)C1=CC=CC=C1 | C10H8ClNO
product | 1-[(3-Phenyl-5-isoxazolyl)methyl]-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(=CC=CC=C1)C1=NOC(=C1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C20H12F3N3O
